US04960766
Concentrated hydrochloric acid (0.136 ml) was added to a suspension of 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer) (0.2 g) in methanol (1 ml) at ambient temperature. After being stirred at the same temperature for 3 hours, the mixture was added dropwise to diethyl ether (100 ml), and the precipitate was collected by filtration. The precipitate was dissolved in water and subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20". The desired product was eluted with water, and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate.trihydrochloride (syn isomer) (71.20 mg).

reactant | hydrochloric acid | 0.136 ml | Cl | ClH
reactant | 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.2 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NC=O)C)C(=O)[O-])C1=O)=NOC | C19H20N8O6S2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | methanol | 1 ml | CO | CH4O
product | 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)C)C(=O)[O-])C1=O)=NOC | C18H20N8O5S2
